US07241785B2
A mixture of ethyl [1-benzyl-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-yl]acetate (731 mg), 1N aqueous sodium hydroxide solution (3 ml), tetrahydrofuran (6 ml) and ethanol (6 ml) was stirred at room temperature for 2 hrs. 1N Hydrochloric acid (3 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained colorless crystals were collected by filtration to give [1-benzyl-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-yl]acetic acid (580 mg, yield 84%), which was then recrystallized from acetone-hexane. melting point: 91–92° C.

reactant | ethyl [1-benzyl-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-yl]acetate | 731 mg | C(C1=CC=CC=C1)N1N=C(C(=C1)CC(=O)OCC)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C32H31N3O5
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | [1-benzyl-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-yl]acetic acid | 580 mg, yield 84% | C(C1=CC=CC=C1)N1N=C(C(=C1)CC(=O)O)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C30H27N3O5
